US08859615B2
6-(((4S,5S)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)hex-4-yn-3-ol
To a solution of (4S,5S)-4-heptyl-2,2-dimethyl-5-(prop-2-ynyl)-1,3-dioxolane (19.4 mg, 0.081 mmol) in THF (0.8 mL) at −78° C. was added n-butyllithium (51 μL, 1.6 M). The mixture was stirred for 30 min. at which time propanal (excess) was added. The mixture was stirred at −78° C. for an additional 30 min. The reaction was quenched with sat'd NH4Cl (aq.) at −78° C. The title compound was isolated using a standard workup (22 mg, 92%). 1H NMR (400 MHz, CDCl3) δ 4.30 (m, 1H), 3.81 (dt, 4 Hz, 7.6 Hz, 1H), 3.71 (m, 1H), 2.54 (dd, 1.6 Hz, 5.2 Hz, 2H), 1.39 (s, 6H), 1.28 (m, 12H), 0.99 (t, 7.6 Hz, 3H), 0.87 (t, 6.4 Hz, 3H). LRMS (APCI+) found 279.7, [M−H2O]+.

reactant | (4S,5S)-4-heptyl-2,2-dimethyl-5-(prop-2-ynyl)-1,3-dioxolane | 0.081 mmol, 19.4 mg | C(CCCCCC)[C@@H]1OC(O[C@H]1CC#C)(C)C | C15H26O2
reactant | n-butyllithium | 1.6 M, 51 μL | C(CCC)[Li]
reactant | propanal | C(CC)=O | C3H6O
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | ((4S,5S)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)hex-4-yn-3-ol | C(CCCCCC)[C@H]1[C@@H](OC(O1)(C)C)CCC(C#CC)O | C18H32O3
